US05180418
Preparation of 9-[4-chloro-2-fluoro-5-(1-methoxycarbonyl-cyclobutylthio)phenylimino]-8-thia-1,6-diazabicyclo[4.3.0]nonan-7-one
While stirring at a temperature of +10° C., 12.5 ml of a 20% solution of phosgene in toluene are added dropwise to a solution of 10.4 g of 1-[2-chloro-4-fluoro-5-(1-hexahydropyridazinyl-thiocarbonylamino)-phenylthio]-cyclobutanecarboxylic acid methyl ester and 10 ml of triethylamine in 100 ml of toluene. The reaction mixture is then stirred for 6 hours and then introduced into ice-water. The organic phase is then separated off and dried over sodium sulfate. Concentration by evaporation and subsequent chromatographic purification by means of silica gel chromatography yield 4.6 g of 9-[4-chloro-2-fluoro-5-(1-methoxycarbonyl-cyclobutylthio)-phenylimino]-8-thia-1,6-diazabicyclo[4.3.0]nonan-7one, ηD22 1.6010.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1-[2-chloro-4-fluoro-5-(1-hexahydropyridazinyl-thiocarbonylamino)-phenylthio]-cyclobutanecarboxylic acid methyl ester | 10.4 g | COC(=O)C1(CCC1)SC1=C(C=C(C(=C1)NC(=S)N1NCCCC1)F)Cl | C17H21ClFN3O2S2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 9-[4-chloro-2-fluoro-5-(1-methoxycarbonyl-cyclobutylthio)phenylimino]-8-thia-1,6-diazabicyclo[4.3.0]nonan-7-one | ClC1=CC(=C(C=C1SC1(CCC1)C(=O)OC)N=C1SC(N2CCCCN12)=O)F | C18H19ClFN3O3S2
